US08580841B2
Step B: Preparation of 1-Cyclopentyl-2-(trifluoromethyl)benzene.
To a solution of 1-(2-(trifluoromethyl)phenyl)cyclopentanol (5.1 g, 22.15 mmol) in ethanol (32 mL) was added 10% Pd—C (500 mg; Degussa; wet) and the mixture was hydrogenated overnight with a hydrogen balloon. The reaction mixture was filtered through celite. The filtrate was poured into ice-water (100 mL) and extracted with CH2Cl2 (2×70 mL). The combined CH2Cl2 layer was washed with water (1×75 mL), dried over Na2SO4, filtered and the solvent was removed under reduced pressure to give the title compound (4.3 g). 1H NMR (400 MHz, CDCl3) δ ppm 1.58-1.67 (m, 4H), 1.81-1.90 (m, 2H), 2.06-2.15 (m, 2H), 3.32-3.43 (m, 1H), 7.22-7.26 (m, 1H), 7.45-7.51 (m, 2H), 7.58 (d, J=8 Hz, 1H).

reactant | 1-(2-(trifluoromethyl)phenyl)cyclopentanol | 22.15 mmol, 5.1 g | FC(C1=C(C=CC=C1)C1(CCCC1)O)(F)F | C12H13F3O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 32 mL | C(C)O | C2H6O
catalyst | Pd—C | 500 mg | [Pd] | Pd
product | 1-Cyclopentyl-2-(trifluoromethyl)benzene | 4.3 g | C1(CCCC1)C1=C(C=CC=C1)C(F)(F)F | C12H13F3
